US08669370B2
Synthesis of (S)-3-(2-Fluoro-phenyl)-3-[(5-methoxy-6-phenyl-pyridine-2-carbonyl)-amino]-propionic acid (Example 263)
50 mg (0.12 mmol) of (S)-3-[(6-Bromo-5-methoxy-pyridine-2-carbonyl)-amino]-3-(2-fluoro-phenyl)-propionic acid are dissolved in 3 ml of DMF, 120 mg (0.16 mmol, 1.35 eq) phenylboronic acid, 10 mg of bis(triphenylphosphine)palladium(II)chloride as catalyst and 1 ml of 1N Na2CO3 solution are added and the resulting mixture is heated to 100° C. for 6 hours. The mixture is filtrated via a pad of celite and subjected to preparative HPLC chromatography to yield 15 mg (31%) of product.

reactant | (S)-3-[(6-Bromo-5-methoxy-pyridine-2-carbonyl)-amino]-3-(2-fluoro-phenyl)-propionic acid | 0.12 mmol, 50 mg | BrC1=C(C=CC(=N1)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)F)OC | C16H14BrFN2O4
reactant | Na2CO3 | 1N, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | phenylboronic acid | 0.16 mmol, 120 mg, 1.35 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 10 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (S)-3-(2-Fluoro-phenyl)-3-[(5-methoxy-6-phenyl-pyridine-2-carbonyl)-amino]-propionic acid | 15 mg, 31% | FC1=C(C=CC=C1)[C@H](CC(=O)O)NC(=O)C1=NC(=C(C=C1)OC)C1=CC=CC=C1 | C22H19FN2O4
